US06166004
31a) 1-{4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane
With the exclusion of air, 270 mg (1.43 mmol) of N-methoxycarbonyl-(L)-iso-leucine, 513 mg (2.67 mmol) of EDC and 241 mg (1.78 mmol) of HOBT are dissolved in 7.8 ml of DMF. After stirring for 15 min, 0.75 ml (5.4 mmol) of TEA and 510 mg (0.89 mmol) of 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane (Example 25f in 3.7 ml of DMF are added. After 20 hours, the mixture is worked up analogously to Example 25g to yield the title compound: HPLC20-100 : tRet =18.5; FAB MS (M+H)+ =743.

reactant | N-methoxycarbonyl-(L)-iso-leucine | 1.43 mmol, 270 mg | COC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C8H15NO4
reactant | EDC | 2.67 mmol, 513 mg
reactant | HOBT | 1.78 mmol, 241 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane | 0.89 mmol, 510 mg | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)N)O)NC(=O)OC(C)(C)C | C32H41N7O3
solvent | DMF | 7.8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3.7 ml | CN(C)C=O | C3H7NO
product | 1-{4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)NC(=O)OC(C)(C)C | C40H54N8O6
